US06344470B1
4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(2-methoxy-5-methoxymethylphenyl)-N-propylamino]thiazole hydrochloride.
At 0° C., under an inert atmosphere, 320 mg of 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(5-hydroxymethyl-2-methoxyphenyl)-N-propylamino]thiazole are dissolved in 0.7 ml of dimethylformamide. 70 mg of sodium hydride (50% in oil) are added. After 5 minutes, 0.24 ml of methyl iodide is added. After 12 hours at room temperature, the reaction mixture is diluted with ethyl acetate and then hydrolyzed. The organic phase is washed several times with water before being dried over sodium sulphate. After purification on a silica gel; the expected product is dissolved in dichloromethane. A 0.1 N solution of hydrochloric acid in isopropanol is then added. After evaporation under vacuum, the expected product is obtained in hydrochloride form; m.p.=71° C.

reactant | 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(5-hydroxymethyl-2-methoxyphenyl)-N-propylamino]thiazole | 320 mg | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C1=C(C=CC(=C1)CO)OC | C22H25ClN2O3S
reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | methyl iodide | 0.24 ml | CI | CH3I
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(2-methoxy-5-methoxymethylphenyl)-N-propylamino]thiazole hydrochloride | Cl.ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C1=C(C=CC(=C1)COC)OC | InChI=1S/C23H27ClN2O3S.ClH/c1-6-11-26(20-12-16(14-27-3)7-10-21(20)29-5)23-25-22(15(2)30-23)18-9-8-17(28-4)13-19(18)24;/h7-10,12-13H,6,11,14H2,1-5H3;1H
